US05059597
43.6 g of ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-(2,4-difluorophenylamino)-acrylate are heated in 260 ml of dimethylformamide at 150° C. with 15.2 g of potassium carbonate for 2.5 hours. The mixture is poured into 1 liter of ice-water and the precipitate is filtered off with suction, washed with water and dried. 38.6 g of ethyl 5,7-dichloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate are obtained.

reactant | ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-(2,4-difluorophenylamino)-acrylate | 43.6 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C(=CC(=C1F)Cl)F | C18H11Cl2F4NO3
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 260 ml | CN(C=O)C | C3H7NO
product | ethyl 5,7-dichloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 38.6 g | ClC1=C2C(C(=CN(C2=CC(=C1F)Cl)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O | C18H10Cl2F3NO3
